US04231962
60.5 g (0.226 mol) of N-3-pentylidene-(3-phenoxybenzylamine is dissolved in 50 ml of toluene; to the solution is then added 2 g (0.0179 mol) of potassium tert-butylate, and the mixture is refluxed for 4 hours. After cooling of the reaction mixture, extraction is effected by shaking with 50 ml of water, and the organic phase is separated in a separating funnel. The toluene is distilled off in a slight water-jet vacuum to leave 56 g (0.21 mol) of 3-phenoxybenzylidene-3-pentylamine, corresponding to a yield of 92.5% of theory; b.p. 125° C./Pa.

reactant | 3-phenoxybenzylamine | O(C1=CC=CC=C1)C=1C=C(CN)C=CC1 | C13H13NO
reactant | potassium tert-butylate | 0.0179 mol, 2 g | CC(C)(C)[O-].[K+]
reactant | water | 50 ml | O | H2O
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 3-phenoxybenzylidene-3-pentylamine | 0.21 mol, 56 g, yield of 92.5% | O(C1=CC=CC=C1)C=1C=C(C=NC(CC)CC)C=CC1 | C18H21NO
